US06590105B2
3-(Benzyloxy)-2-cyclohexen-1-one
To a flask equipped with magnetic stirrer and Dean Stark apparatus was added 1,3-cyclohexanedione (70.0 g, 624 mmol), toluene (500 ml), p-toluenesulfonic acid monohydrate (1.68 g, 8.83 mmol) and benzyl alcohol (65.6 g, 606 mmol). The resulting solution was heated under reflux for 2 hr. The reaction mixture was cooled to room temperature and washed with saturated aqueous sodium carbonate solution (4×50 ml). The organic layer was washed with brine (50 ml), dried over magnesium sulfate, filtered and concentrated in vacuo, affording a brown oil which crystallised upon standing. The crude crystalline material was triturated in isopropyl ether (100 ml) and stirred at 0° C. for 2 hr. The mixture was filtered and the crystalline material was washed with ice cold isopropyl ether (3×100 ml) followed by cold petroleum ether (100 ml). The resulting solid was dried overnight under reduced pressure to furnish the title compound (85.3 g, 68%). m/z (ES+) 203 (M+H+).

reactant | 1,3-cyclohexanedione | 624 mmol, 70.0 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | benzyl alcohol | 606 mmol, 65.6 g | C(C1=CC=CC=C1)O | C7H8O
catalyst | p-toluenesulfonic acid monohydrate | 8.83 mmol, 1.68 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(Benzyloxy)-2-cyclohexen-1-one | 85.3 g, 68% | C(C1=CC=CC=C1)OC1=CC(CCC1)=O | C13H14O2
